US05272180
7-(4-Fluorophenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-heptanoic acid (0.8 g, 2.2 mmol) was dissolved in dichloromethane (20 ml), to which oxalyl chloride (0.5 ml) was added at room temperature. The reaction mixture was stirred at 50° C. for 1 hour, and the solvent was evaporated under reduced pressure The resultant residue was dissolved in THF (5 ml), which was added dropwise at room temperature to a mixture of hydroxylamine hydrochloride (0.5 g, 7 mmol) in THF (10 ml) and saturated solution of aqueous sodium hydrogencarbonate (10 ml). After being stirred at room temperature for 1 hour, ethyl acetate (20 ml) was added to the reaction mixture. The organic layer was washed with water, dried, and concentrated under reduced pressure, and the resultant residue was recrystallized from isopropylether, to give 7-(4-fluorophenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-heptanohydroxamic acid (0.7 g, 85%). The physical properties are shown in the column of Compound No.6 in Table 1. In the similar manner, Compounds Nos. 2, 3, 5, 7, 9, and 18 were synthesized.

reactant | 7-(4-Fluorophenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-heptanoic acid | 2.2 mmol, 0.8 g | FC1=CC=C(C=C1)C(CCCCCC(=O)O)C=1C(C(=C(C(C1C)=O)C)C)=O | C22H25FO4
reactant | hydroxylamine hydrochloride | 7 mmol, 0.5 g | Cl.NO
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | oxalyl chloride | 0.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-(4-fluorophenyl)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-heptanohydroxamic acid | 0.7 g, 85% | FC1=CC=C(C=C1)C(CCCCCC(=O)NO)C=1C(C(=C(C(C1C)=O)C)C)=O | C22H26FNO4
